US08580229B2
Preparation of 2-(4′-Nitrophenyl)-6-hydroxybenzothiazole
To a suspension of 2-(4′-nitrophenyl)-6-methoxy benzothiazole (400 mg, 1.5 mmol) in CH2Cl2 (10 mL) was added BBr3 (1M in CH2Cl2, 10 mL, 10 mmol). The reaction mixture was stirred) and at room temperature for 24 hr. The reaction was then quenched with water, and extracted with ethyl acetate (3×20 mL). The organic layers were combined and washed with water, dried over MgSO4, and evaporated. The residue was purified by flash chromatography (silica gel, hexanes:ethyl acetate=1:1) to give the product as a yellow solid (210 mg, 55%). 1HNMR (300 MHz, Acetone-d6) δ (ppm): 9.02 (s, OH), 8.41 (d, J=9.1 Hz, 1H), 8.33 (d, J=9.1 Hz, 1H), 7.96 (d, J=8.6 Hz, 1H), 7.53 (d, J=2.4 Hz, 1H), 7.15 (dd, J1=8.6 Hz, J2=2.4 Hz, 1H).

reactant | 2-(4′-nitrophenyl)-6-methoxy benzothiazole | 1.5 mmol, 400 mg | [N+](=O)([O-])C1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC | C14H10N2O3S
reactant | BBr3 | 10 mmol, 1M, 10 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(4′-Nitrophenyl)-6-hydroxybenzothiazole | 210 mg, 55% | [N+](=O)([O-])C1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)O | C13H8N2O3S
